Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
L sided numbness, near syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ female patient with history of HTN, HLD presented 
to the ED for evaluation of dizziness and left-sided weakness 
numbness and tingling. She was last seen normal at noon on 
___. She was at the supermarket shopping pushing a 
shopping cart and noticed the sensation of numbness tingling on 
the left side of her body and felt unwell. She is on daily 
aspirin but no other anticoagulation. She has never had anything 
like this before. She endorses mild headache at this time and 
continues to have numbness in the left extremity.  
 In the ED she scored at 0 on the stroke scale. Per ED 
discussion, unlikely to be stroke but pt still symptomatic so 
will admit to medicine for near syncope/weakness workup vs TIA.  

 EKG in the ED showed a NSR no ST changes.  
 In the ED, initial VS were Temp 99.1 F HR 56 141/65 RR 19 96% 
RA  
 Labs showed  
 WBC 6.7 hgb 12.5 MCV 98 plt 171  
 INR 0.9 PTT 23.2  
 BNP 133  
 Tox screen Utox/Serum tox negative  
 Na+ 139 K+ 4.5 BUN 15 Cr 0.8  
 UA negative. BCx, UCx pending.  
 Imaging showed  
 NCHCT w/o acute process CTA neck Incidental note is made of a 
small infundibulum arising from the supraclinoid right carotid 
artery  
 Received nothing  
 Transfer VS were temp 98.3F HR 94 128/75 RR 18 99% RA  
 
 neurology was consulted for a code stroke. Unlikely stroke 
possible these paresthesias are related to either a migrainous 
phenomenon (acephalic migraine;albeit first episode), 
hyperventilation given recent SOB (and low bicarbonate), or 
anxiety.  
 On arrival to the floor, patient reports that she feels better. 
Thought she was going to pass out, tingles, left side of the 
body.  
 Endorsed somewhat pressure in the heart along with shortness of 
breath. patient did endorse headache earlier the day of 
presentation and she usually does not get headaches, described 
it in the back of the head with a tingling feeling gone upon 
arrival to floor. No blurred vision/doubled. No slurred speech 
at any time. No difficutly swallowing, choking on food.No belly 
pain or nausea. No swelling in feet.  
 
 In terms of cardiac risk factors, quit ___ years ago smoked ___ 
years, no EtOH, no diabetes. 2 uncles young and brother MI with 
stents  
 
Past Medical History:
 Patient has a history of osteomyelitis of the left humerus 
about ___ years prior.  
 Anxiety states  
 Colonic polyp  
 Hypertension  
 Diverticulosis  
 Hypercholesteremia  
 Moderate COPD (chronic obstructive pulmonary disease)  
 Squamous acanthoma of face  
 Cancer screening  
 Subclinical hypothyroidism  
 Gastroesophageal reflux disease 
 
Social History:
___
Family History:
brother with MIs in ___, also with uncles with sudden cardiac 
death in ___ reportedly from MI (according to patient) 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
 VS: 148 / 79 65 16 97 RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 98.5PO 116 / 67 69 16 97 RA    
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation. No 
hepatomegaly. 
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor ___ in all extremities, sensation 
intact, no cerebellar dysfunction, gait deferred  
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:37PM BLOOD WBC-6.7 RBC-3.58* Hgb-12.5 Hct-35.2 
MCV-98 MCH-34.9* MCHC-35.5 RDW-11.9 RDWSD-43.3 Plt ___
___ 02:37PM BLOOD Neuts-52.9 ___ Monos-7.1 Eos-4.4 
Baso-0.5 NRBC-0.3* Im ___ AbsNeut-3.52 AbsLymp-2.31 
AbsMono-0.47 AbsEos-0.29 AbsBaso-0.03
___ 02:37PM BLOOD ___ PTT-23.2* ___
___ 02:37PM BLOOD Glucose-110* UreaN-15 Creat-0.9 Na-139 
K-4.0 Cl-103 HCO3-21* AnGap-19
___ 02:37PM BLOOD ALT-35 AST-32 AlkPhos-76 TotBili-1.4
___ 02:37PM BLOOD CK-MB-2 cTropnT-<0.01 proBNP-133
___ 05:15AM BLOOD cTropnT-<0.01
___ 02:37PM BLOOD Albumin-4.5 Calcium-9.5 Phos-3.6 Mg-1.9
___ 05:15AM BLOOD VitB12-251
___ 06:24AM BLOOD %HbA1c-5.3 eAG-105
___ 05:15AM BLOOD Triglyc-292* HDL-48 CHOL/HD-3.5 
LDLcalc-63
___ 02:37PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:44PM URINE Color-Straw Appear-Clear Sp ___
___ 07:44PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 07:44PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICRO
=====
URINE CX NEGATIVE, BLOOD CX NGTD BUT PENDING AT TIME OF D/C

IMAGING
=======
CTA HEAD AND NECK ___ 
IMPRESSION:    
1.  No acute intracranial hemorrhage.  No acute intracranial 
abnormality on noncontrast head CT.  
2.  Unremarkable head and neck CTA, without evidence of 
occlusion or 
dissection.  
3.  Mild to moderate paranasal sinus disease, as above. 

CXR ___
No acute intrathoracic process.

ECHO ___
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF =55-60%). No masses or thrombi are 
seen in the left ventricle. There is no left ventricular outflow 
obstruction at rest or with Valsalva. There is no ventricular 
septal defect. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(?#) appear structurally normal with good leaflet excursion. 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve appears structurally normal with trivial 
mitral regurgitation. There is no mitral valve prolapse. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

 IMPRESSION: No cardiac cause for syncope identified.  

EXERCISE STRESS TEST ___
IMPRESSION: Average exercise tolerance. No typical anginal 
symptoms 
with ST segments that are uninterpretable for ischemia in the 
presence 
of the rate-related LBBB. Appropriate hemodynamic response to 
exercise. 

CARDIAC PERFUSION IMAGING PHARMACOLOGICAL STRESS TEST ___
 
IMPRESSION: No anginal type symptoms or significant ST segment 
changes. 
Appropriate hemodynamic response to vasodilator stress. 
Asymptomatic 
non-sustained irregular wide complex tachycardia. Nuclear report 
sent 
separately. 

MRI HEAD W/ AND W/O CONTRAST ___
1. No evidence of infarction, hemorrhage, mass, or abnormal 
enhancement.

DISCHARGE LABS
==============
___ 05:10AM BLOOD WBC-6.4 RBC-3.89* Hgb-13.5 Hct-37.9 
MCV-97 MCH-34.7* MCHC-35.6 RDW-11.9 RDWSD-42.3 Plt ___
___ 05:10AM BLOOD Glucose-109* UreaN-15 Creat-0.7 Na-140 
K-3.7 Cl-100 HCO3-26 AnGap-18
___ 05:10AM BLOOD ALT-29 AST-26 AlkPhos-77 TotBili-1.5 
DirBili-<0.2
___ 05:10AM BLOOD Calcium-9.7 Phos-5.0* Mg-2.___ female patient with history of COPD, HTN, HLD 
presented to the ED for evaluation of dizziness and left-sided 
numbness and tingling, admitted for further w/u after initial 
studies negative.
 
 # Near syncope: left arm tingling/numbness c/f stroke, although 
CT head and neck normal. MRI head also normal. Did have CP/SOB 
at the time, last had echo stress test in ___ which was normal. 
Echo this admission also normal, no cardiac cause of syncope 
identified. No EKG changes, trop x2 negative. pro-BNP negative, 
and CP was mild w/ no hypoxia, so PE not likely. Blood pressures 
normal and equal in both arms and history not c/w dissection. 
Orthostatics negative. A1c, lipid panel normal. B12 in low range 
of normal, consider testing for MMA and homocysteine as 
outpatient. ETT w/ LBBB developed on EKG during study, so pharm 
stress test w/ myocardial imaging done, no ischemic changes 
seen, but patient did have 12 beat run of nonsustained wide 
complex tach. Had some SOB with the episode. Possible that her 
episode as an outpatient was related to a transient arrhythmia 
as we have seen with the stress tests. Therefore, recommend 
setting patient up with an event monitor as an outpatient. 
Continued on home ASA, atenolol, statin.
 
 # COPD: former smoker, moderate per atrius outpatient records, 
last PFTs ___ with moderate obstruction (FEV1/FVC 62%). CT 
chest without contrast for lung cancer screening negative. Was 
only on albuterol, and given persistent complaints of SOB at 
home, discharged on long acting Spiriva inhaler daily. 

CHRONIC ISSUES
==============
# HTN: continued home atenolol, HCTZ
# Hypothyroidism: TSH in ___ normal. continued home 
levothyroxine
# HLD: continued home rosuvastatin. 

TRANSITIONAL ISSUES
===================
[ ] consider event monitor as an outpatient given stress test 
findings described above
[ ] may consider testing for MMA, homocysteine given B12 
low-normal (251) in house
[ ] started on daily Spiriva for COPD 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY with allergies  
4. Levothyroxine Sodium 25 mcg PO DAILY 
5. Atenolol 50 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Rosuvastatin Calcium 20 mg PO QPM 

 
Discharge Medications:
1.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva Respimat] 2.5 mcg/actuation 2 
PUFF INH once per day Disp #*1 Inhaler Refills:*1 
2.  Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing  
3.  Aspirin 81 mg PO DAILY  
4.  Atenolol 50 mg PO DAILY  
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY with allergies  
 
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Levothyroxine Sodium 25 mcg PO DAILY  
8.  Rosuvastatin Calcium 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Near syncope without identified cause

SECONDARY DIAGNOSIS
==================
Chronic Obstructive Pulmonary Disease
Hypertension
Hypothyroidism
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were admitted 
due to your feeling of left sided numbness and almost passing 
out. We performed multiple tests on your heart and brain and 
found no alarming findings. However, you did have an abnormal 
heart rhythm during the stress tests, so we will recommend to 
your primary care physician to set you up with an event monitor 
as an outpatient. This monitor can track your heart rhythm 
during day-to-day activities and may show a correlation between 
your symptoms and abnormal rhythms. If so, you may need to see a 
cardiologist. Also, we prescribed a long acting inhaler to help 
with the shortness of breath from your COPD.

We wish you the best of health,
Your ___ Care Team
 
Followup Instructions:
___